US07994325B2
Step D. Benzyl 4-[2-((3-bromopyridin-2-yl){[2-(trimethylsilyl)ethoxy]methyl}amino)-2-oxoethyl]-3,6-dihydropyridine-1(2H)-carboxylate
Sodium hydride (60% dispersion in mineral oil; 117 mg, 4.88 mol) was added in portions over 10 min to a solution of benzyl 4-{2-[(3-bromopyridin-2-yl)amino]-2-oxoethyl}-3,6-dihydropyridine-1(2H)-carboxylate (1.91 g, 4.43 mol) in THF (15 mL) at 0° C. After 0.5 h, 2-trimethylsilyl)ethoxymethyl chloride (0.861 mL, 4.88 mol) was then added slowly, keeping the temperature of the reaction mixture below 10° C. After 4 h, sodium hydride (60 mg) and 2-(trimethylsilyl)ethoxymethyl chloride (0.45 ml) were added and the reaction allowed to warm to room temperature overnight. The reaction was quenched with saturated aqueous ammonium chloride and the mixture was extracted with CH2Cl2 (3×). The combined organic layers were dried over MgSO4, filtered, and concentrated. The crude product was purified by silica gel chromatography, eluting with a gradient of 40 to 70% ethyl acetate: hexanes to give the title compound (1.51 g). MS: m/z=560.2 (M+1).

reactant | Sodium hydride | 4.88 mol, 117 mg | [H-].[Na+]
reactant | benzyl 4-{2-[(3-bromopyridin-2-yl)amino]-2-oxoethyl}-3,6-dihydropyridine-1(2H)-carboxylate | 4.43 mol, 1.91 g | BrC=1C(=NC=CC1)NC(CC=1CCN(CC1)C(=O)OCC1=CC=CC=C1)=O | C20H20BrN3O3
reactant | ethoxymethyl chloride | 4.88 mol, 0.861 mL | C(C)OCCl | C3H7ClO
reactant | sodium hydride | 60 mg | [H-].[Na+]
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | 0.45 ml | C[Si](CCOCCl)(C)C | C6H15ClOSi
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | Benzyl 4-[2-((3-bromopyridin-2-yl){[2-(trimethylsilyl)ethoxy]methyl}amino)-2-oxoethyl]-3,6-dihydropyridine-1(2H)-carboxylate | 1.51 g | BrC=1C(=NC=CC1)N(C(CC=1CCN(CC1)C(=O)OCC1=CC=CC=C1)=O)COCC[Si](C)(C)C | C26H34BrN3O4Si
